* source BBCIRCUIT_SIMULATION
R_R1         ISOLATE N01369  200 TC=0,0 
R_R3         N00352 N01369  200 TC=0,0 
V_V3         N341332 N00562 0Vdc
V_V6         N01369 0 48Vdc
R_R6         N01369 BASE  2k TC=0,0 
V_V2         N00562 N339696 0Vdc
D_D1         N339770 N339696 D1N5819 
X_M1         N339696 ISOLATE N339770 IRF1404
V_V5         N342332 0  
+PULSE 0 36 0 0.001us 0.001us 10us 25us
V_V7         N342321 0 12Vdc
D_D2         N341278 N339770 D1N5819 
D_D3         N341336 N341332 D1N5819 
R_R7         N00562 N342321  1 TC=0,0 
R_R4         N342332 N339770  1 TC=0,0 
Q_Q3         N00352 BASE N341336 BC847_1 
Q_Q4         ISOLATE BASE N341278 BC847_1 
